2104-12-30 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Had another episode of SOB at 6:20am, associated with [**2105-2-5**] chest
   pressure. No nausea, diaphoresis.  Lung exam revealed R>L crackles,
   given 20mg IV lasix.  Satting well on 2L NC.  EKG showed A-V pacing, no
   ST-T changes.  Sx improved after lasix.
   Allergies:
   Penicillins
   Hives;
   Accupril (Oral) (Quinapril Hcl/Mag Carb)
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-30**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 81 (76 - 93) bpm
   BP: 109/57(70) {100/50(63) - 145/80(92)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Height: 65 Inch
             Total In:
             160 mL
   PO:
             60 mL
   TF:
   IVF:
   100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    405 mL
   Urine:
   405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -245 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Ncek supple with JVP of 10cm.
   CARDIAC: RR, normal S1, S2. II/VI systolic flow murmur at RUSB.
   LUNGS: Crackles at bilateral lung bases (1/3 up), R>L, rhonchi
   throughout
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ radial 2+ DP 2+ PT 2+
   Left: Carotid 2+ radial 2+  DP 2+ PT 2+
   Labs / Radiology
   180
   15.8
   119
   1.2
   23
   3.8
   16
   99
   135
   45.8
   8.2
        [image002.jpg]
   CXR [**12-29**]: read pending.
   Assessment and Plan
   81 year old F withHOCM s/p EtOH ablation, AF on dofetilide, s/p BiV
   ICD, presenting with acute onset SOB and episode of polymorphic VT
   requiring ICD shock.
   .
   # RHYTHM:  A sense V paced rhythm, with QTc prolongation to approx
   500.  Patient's polymorphic VT likely secondary to prolonged QT in the
   setting of getting multiple QT-prolonging medications (doefetilide vs
   levaquin in ED) and being hypokalemic (K 3.3).  Patient received 4g
   Mg.  Interrogation reveals appropriate function.  Unlikely to be
   related to ischemia as patient has clean coronaries on cath 6 months
   ago, and no history of CAD.
   - Hold Dofetilide for now
   - get endocrine c/s re possible initiation of amiodarone
   - EP reprogram the ICD for faster HR (85)
   - Cont BB
   - Hold Warfarin today for INR 3.1, will restart tomorrow
   - Replete K > 4.5, Mg > 2.5
   - consider spironolactone
   - Monitor on telemetry
   .
   # PUMP/SOB:  Acute on chronic diastolic heart failure.  Patient with
   h/o moderate concentric LVH with preserved EF (> 70%).  Wedge pressure
   elevated in prior echo and cath.  Evidence of volume overload on exam
   this AM.  Patient was given 20mg IV lasix this AM ([**12-30**]) for SOB and
   bibasilar crackles.  No EKG changes.  Etiology for patient's acute
   pulmonary edema (no evidence of ischemia, no dietary indiscretion) is
   diastolic heart failure.
   - f/u TTE this AM
   - hold home dose of PO lasix, she received 20mg IV lasix this AM
   - give IV Lasix prn, monitor lytes closely
   .
   # CORONARIES: No history of CAD.  Cath [**6-12**] reveals clean coronaries.
   .
   # Hypertension:  BP 100/50.
   - continue metoprolol 37.5mg TID
   - can restart [**Last Name (un) **] once BP can tolerate it
   .
   #  HPL:  Continue lipitor and tricor
   ICU Care
   Nutrition:
   Cardiac diet
   Glycemic Control:  no insulin
   Lines:
   18 Gauge - [**2104-12-30**] 02:31 AM
   20 Gauge - [**2104-12-30**] 02:32 AM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: not-indicated
   VAP:  not indicated
   Comments:
   Communication:  Comments: [**Doctor Last Name 31**](son) [**Telephone/Fax (1) 12852**]
   Code status: OK for compression, DNI (need to re-address)
   Disposition: CCU for now
   ------ Protected Section ------
   Attendings Note:10.30hrs.
   Reviewed data and overnight course.
   Examined Pt and agree with Rx plan outlined by Dr.[**First Name8 (NamePattern2) 1050**]
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   Spent 45mins
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2105-1-1**] 13:56 ------

2105-01-01 07:04:00 Physician Attending Progress Note
TITLE:
   24 Hour Events:
   - Held all antihypertensives for now given low sbp's, minimal UOP,
   Encouraged PO's
   - PM lytes: Creatinine 2.6, FeNa 0.23, BP as low as 50s. Given 500cc NS
   boluses x2. this AM creatinine improved to 2.1
   Allergies:
   Penicillins
   Hives;
   Accupril (Oral) (Quinapril Hcl/Mag Carb)
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-1**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 79 (75 - 86) bpm
   BP: 100/59(69) {51/33(39) - 101/64(73)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AV Paced
   Wgt (current): 68.2 kg (admission): 68.7 kg
   Height: 65 Inch
             Total In:
                                                                  2,831 mL
                                                                    129 mL
   PO:
                                                                  1,960 mL
             TF:
   IVF:
                                                                    871 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  1,019 mL
                                                                  1,160 mL
   Urine:
                                                                  1,019 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,812 mL
                                                                 -1,031 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Ncek supple with JVP of 8cm
   CARDIAC: RR, normal S1, S2. II/VI systolic flow murmur at RUSB.
   LUNGS: rhonchi throughout, no crackles
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ radial 2+ DP 2+ PT 2+
   Left: Carotid 2+ radial 2+  DP 2+ PT 2+
   Labs / Radiology
   14.4 g/dL
   195 K/uL
   97 mg/dL
   2.1 mg/dL
   27 mEq/L
   4.7 mEq/L
   33 mg/dL
   101 mEq/L
   136 mEq/L
   42.1 %
   5.9 K/uL
        [image002.jpg]
                             [**2104-12-30**]  06:10 AM
                             [**2104-12-30**]  10:03 AM
                             [**2104-12-31**]  03:15 AM
                             [**2104-12-31**]  02:27 PM
                             [**2105-1-1**]  04:08 AM
   WBC
   8.2
   7.6
   5.9
   Hct
   45.8
   43.0
   42.1
   Plt
   180
   179
   195
   Cr
   1.2
   2.2
   2.6
   2.1
   TropT
   0.02
   Glucose
   119
   113
   108
   97
   Other labs: PT / PTT / INR:29.6/29.3/2.9,
   Ca++:9.3 mg/dL, Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   no new micro
   CXR from this AM: pending
   Assessment and Plan
   81 year old F withHOCM s/p EtOH ablation, AF on dofetilide, s/p BiV
   ICD, presenting with acute onset SOB and episode of polymorphic VT
   requiring ICD shock.
   .
   # ACUTE RENAL FAILURE:  Patient was restarted on Valsartan 40mg [**Hospital1 7**] and
   started on Spirinolactone on [**12-30**].  Patient was given 40mg IV Lasix to
   which patient did not put out much, so was given IV lasix 80mg x 1 on
   [**12-30**].  Patient
s pressures were in 90-100's when awake, down to 70s
   when sleeping, so valsartan and spironolactone were held at midnight on
   [**12-30**], and continued to be held on [**12-31**].  Unfortunately, in the setting
   of relative hypotension and receiving 2 doses of IV lasix (40mg +
   80mg), patient
s UOP dropped off to nearly zero ~3AM when bp's were
   low, Cr bumped to 2.2 on [**12-31**], urine lytes showed Feurea of 13. Repeat
   urine lytes on [**12-31**] showedFeNa 0.23.  Patient was given 500cc bolus
   yesterday for creatinine of 2.6 and hypotension to 50s.
   - continue to hold lasix, spironolactone and valsartan given acute
   renal failure
   - encourage PO intake
   - consider gental IVF (250cc bolus)
   - get pm lytes
   - avoid renal toxins and renally dose meds
   - continue to trend renal fnx
   .
   # PUMP/SOB:  Acute on chronic diastolic heart failure.  TTE on [**12-30**]
   showed diastolic dysfunction and EF 70-80%. Patient was given 2 doses
   of IV lasix yesterday (40mg and 80mg) because she sounded wet, and did
   not put out much urine to the first dose of lasix. Currently lasix is
   on hold since patient has developed acute renal failure.  Patient was
   hypotensive down to systolic 50s despite holding lasix, spironolactone
   and valsartan on [**12-31**].  Patient was mentating well, but does have end
   organ damage evidenced by actue renal failure.
   - continue to hold lasix, spironolactone and valsartan given acute
   renal failure
   - continue BB to metoprolol 25mg [**Hospital1 7**]
   - encourage PO intake
   - pm lytes
   - consider gental IVF if continues to be hypotensive this PM, cr does
   not improve and if lung exam shows no crackles
   - monitor respiratory sx
   .
   # RHYTHM:  Patient had no more VT episodes for over 48 hours. ICD was
   reprogrammed on [**12-30**] to increase rate from 70 to 80, and initial
   detection for VF was reprogrammed from 30/40 beats to 18/24 beats.
   Patient with A sense V paced rhythm, she presented initially with QTc
   prolongation to approx 500.  Patient's polymorphic VT likely secondary
   to prolonged QT in the setting of getting multiple QT-prolonging
   medications (doefetilide vs levaquin in ED) and being hypokalemic (K
   3.3).  The VT episodes were unlikely related to ischemia as patient has
   clean coronaries on cath 6 months ago, and no history of CAD.
   Spironolactone was started on [**12-30**], but was held last night due to
   acute renal failure.
   - start flecanide today
   - restart coumadin today
   - Replete K > 4.5, Mg > 2.5
   - Monitor on telemetry
   .
   # CORONARIES: No history of CAD.  Cath [**6-12**] reveals clean coronaries.
   .
   # HISTORY OF HYPERTENSION:  Currently hypotensive in the 70s-80s with
   acute renal failure.
   - hold [**Last Name (un) **] and lasix for now.
   - continue metoprolol 25mg [**Hospital1 7**]
   - consider gental IVF if pm lytes look worse
   .
   #  HPL:  Continue lipitor and tricor
   ICU Care
   Nutrition: cardiac healthy diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-12-30**] 02:31 AM
   20 Gauge - [**2104-12-30**] 02:32 AM
   Prophylaxis:
   DVT: INR therapeutic, restart coumadin
   Stress ulcer: not-indicated
   VAP:  not indicated
   Comments: on bowel regimen
   Communication:  Comments: [**Doctor Last Name 31**](son) [**Telephone/Fax (1) 12852**]
   Code status: full code
   Disposition: transfer to floor
   ------ Protected Section ------
   Attendings Note:10.00hrs.
   Reviewed data and overnight course.
   Examined Pt and agree with Rx plan outlined by Dr.[**First Name (STitle) 1050**].
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   Spent 45mins
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2105-1-1**] 13:58 ------